US04943629
2,5 Anhydro-1-C-(diethoxyphosphinyl)-2-C-[(phenylmethoxy)methyl]-3,4,6-tris-O-(phenylmethyl)-D-glucitol
A 7.20 g portion of 2,5-anhydro-2-C-[(phenylmethoxy)methyl]-3,4,6-tris-O-(phenylmethyl)-D-glucose was dissolved in 6.7 ml of phosphonic acid, diethyl ester and treated with 620 μl of triethylamine under argon. After 4.5 hours 800 μl of acetic acid was added, the resulting yellow oil taken up in ether, washed with water, saturated with hexane, rewashed with water, then twice with brine, dried and evaporated. The residual oil was flash chromatographed, eluting 75 ml fractions with ether:toluene (2:1).

reactant | 2,5-anhydro-2-C-[(phenylmethoxy)methyl]-3,4,6-tris-O-(phenylmethyl)-D-glucose | C1(=CC=CC=C1)COC[C@]1(C=O)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C35H36O6
reactant | triethylamine | 620 μl | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 800 μl | C(C)(=O)O | C2H4O2
reactant | phosphonic acid, diethyl ester | 6.7 ml | P(OCC)(OCC)=O | C4H11O3P
solvent | ether | CCOCC | C4H10O
product | 2,5 Anhydro-1-C-(diethoxyphosphinyl)-2-C-[(phenylmethoxy)methyl]-3,4,6-tris-O-(phenylmethyl)-D-glucitol | C(C)OP(=O)(C([C@]1([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)COCC1=CC=CC=C1)O)OCC | C39H47O9P
